* NGSPICE file created from mult4_SarsaNStepsRuido_e9_SarsaNStepsRuido_e9_SarsaNStepsRuido_e9_SARSA_RUIDO_e9.ext - technology: sky130A

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VPWR VGND VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a31o_1 abstract view
.subckt sky130_fd_sc_hd__a31o_1 A1 A2 A3 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2_1 abstract view
.subckt sky130_fd_sc_hd__nand2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_1 abstract view
.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xor2_1 abstract view
.subckt sky130_fd_sc_hd__xor2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2_1 abstract view
.subckt sky130_fd_sc_hd__and2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand3_1 abstract view
.subckt sky130_fd_sc_hd__nand3_1 A B C VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or2_1 abstract view
.subckt sky130_fd_sc_hd__or2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o31ai_1 abstract view
.subckt sky130_fd_sc_hd__o31ai_1 A1 A2 A3 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21oi_1 abstract view
.subckt sky130_fd_sc_hd__a21oi_1 A1 A2 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or4_1 abstract view
.subckt sky130_fd_sc_hd__or4_1 A B C D VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o32ai_1 abstract view
.subckt sky130_fd_sc_hd__o32ai_1 A1 A2 A3 B1 B2 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or4b_1 abstract view
.subckt sky130_fd_sc_hd__or4b_1 A B C D_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a211o_1 abstract view
.subckt sky130_fd_sc_hd__a211o_1 A1 A2 B1 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_2 abstract view
.subckt sky130_fd_sc_hd__clkbuf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and3_1 abstract view
.subckt sky130_fd_sc_hd__and3_1 A B C VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21ba_1 abstract view
.subckt sky130_fd_sc_hd__o21ba_1 A1 A2 B1_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlymetal6s2s_1 abstract view
.subckt sky130_fd_sc_hd__dlymetal6s2s_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21o_1 abstract view
.subckt sky130_fd_sc_hd__a21o_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21bai_1 abstract view
.subckt sky130_fd_sc_hd__o21bai_1 A1 A2 B1_N VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__mux2_1 abstract view
.subckt sky130_fd_sc_hd__mux2_1 A0 A1 S VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and4_1 abstract view
.subckt sky130_fd_sc_hd__and4_1 A B C D VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o211a_1 abstract view
.subckt sky130_fd_sc_hd__o211a_1 A1 A2 B1 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xnor2_1 abstract view
.subckt sky130_fd_sc_hd__xnor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2b_1 abstract view
.subckt sky130_fd_sc_hd__and2b_1 A_N B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__conb_1 abstract view
.subckt sky130_fd_sc_hd__conb_1 VGND VNB VPB VPWR HI LO
.ends

.subckt mult4_SarsaNStepsRuido_e9_SarsaNStepsRuido_e9_SarsaNStepsRuido_e9_SARSA_RUIDO_e9
+ A[0] A[1] A[2] A[3] B[0] B[1] B[2] B[3] P[0] P[1] P[2] P[3] P[4] P[5] P[6] P[7]
+ VGND VPWR
XFILLER_7_7 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_83_ net7 net3 _24_ _23_ VGND VGND VPWR VPWR _34_ sky130_fd_sc_hd__a31o_1
XFILLER_3_78 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_66_ net7 net3 VGND VGND VPWR VPWR _17_ sky130_fd_sc_hd__nand2_1
XFILLER_0_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_49_ net5 net6 VGND VGND VPWR VPWR _03_ sky130_fd_sc_hd__nor2_1
XFILLER_3_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_82_ _29_ _32_ VGND VGND VPWR VPWR _33_ sky130_fd_sc_hd__xor2_1
X_65_ _15_ _16_ VGND VGND VPWR VPWR net11 sky130_fd_sc_hd__and2_1
XPHY_EDGE_ROW_4_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_48_ net1 net5 net2 VGND VGND VPWR VPWR _02_ sky130_fd_sc_hd__nand3_1
XFILLER_0_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput10 net10 VGND VGND VPWR VPWR P[2] sky130_fd_sc_hd__buf_2
X_81_ _30_ _31_ VGND VGND VPWR VPWR _32_ sky130_fd_sc_hd__or2_1
XFILLER_9_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_47_ net3 VGND VGND VPWR VPWR _01_ sky130_fd_sc_hd__inv_2
XFILLER_3_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_64_ _03_ _07_ _08_ _14_ VGND VGND VPWR VPWR _16_ sky130_fd_sc_hd__o31ai_1
Xoutput9 net9 VGND VGND VPWR VPWR P[1] sky130_fd_sc_hd__buf_2
Xoutput11 net11 VGND VGND VPWR VPWR P[3] sky130_fd_sc_hd__buf_2
X_80_ net6 _07_ _18_ VGND VGND VPWR VPWR _31_ sky130_fd_sc_hd__a21oi_1
X_63_ _03_ _07_ _08_ _14_ VGND VGND VPWR VPWR _15_ sky130_fd_sc_hd__or4_1
XFILLER_5_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XTAP_TAPCELL_ROW_5_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_46_ net6 VGND VGND VPWR VPWR _00_ sky130_fd_sc_hd__inv_2
XFILLER_0_49 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput12 net12 VGND VGND VPWR VPWR P[4] sky130_fd_sc_hd__buf_2
XFILLER_6_48 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_1_70 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_9_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_62_ _12_ _13_ VGND VGND VPWR VPWR _14_ sky130_fd_sc_hd__nand2_1
XPHY_EDGE_ROW_8_Left_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput13 net13 VGND VGND VPWR VPWR P[5] sky130_fd_sc_hd__buf_2
X_61_ _09_ _10_ _11_ _02_ _00_ VGND VGND VPWR VPWR _13_ sky130_fd_sc_hd__o32ai_1
XFILLER_9_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xoutput14 net14 VGND VGND VPWR VPWR P[6] sky130_fd_sc_hd__buf_2
X_60_ _09_ _10_ _11_ _05_ VGND VGND VPWR VPWR _12_ sky130_fd_sc_hd__or4b_1
XFILLER_3_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xoutput15 net15 VGND VGND VPWR VPWR P[7] sky130_fd_sc_hd__buf_2
XFILLER_6_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_8_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_9_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_4_51 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_40 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_4_63 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_4_74 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XTAP_TAPCELL_ROW_0_20 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_9_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_21 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_3_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_9_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_98_ _26_ _45_ VGND VGND VPWR VPWR net12 sky130_fd_sc_hd__and2_1
XFILLER_8_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_97_ _12_ _15_ _25_ VGND VGND VPWR VPWR _45_ sky130_fd_sc_hd__nand3_1
XPHY_EDGE_ROW_7_Left_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput1 A[0] VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__buf_1
XFILLER_1_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_9_Right_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_3_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_96_ net8 _28_ _41_ _44_ VGND VGND VPWR VPWR net15 sky130_fd_sc_hd__a211o_1
Xinput2 A[1] VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__clkbuf_2
X_79_ net6 _07_ _18_ VGND VGND VPWR VPWR _30_ sky130_fd_sc_hd__and3_1
XFILLER_7_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_95_ _38_ _43_ VGND VGND VPWR VPWR net14 sky130_fd_sc_hd__xor2_1
X_78_ net8 _01_ _27_ _28_ VGND VGND VPWR VPWR _29_ sky130_fd_sc_hd__a211o_1
XFILLER_1_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
Xinput3 A[2] VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__clkbuf_2
XFILLER_7_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_94_ _35_ _37_ _43_ VGND VGND VPWR VPWR _44_ sky130_fd_sc_hd__o21ba_1
X_77_ net7 net4 net3 VGND VGND VPWR VPWR _28_ sky130_fd_sc_hd__and3_1
Xinput4 A[3] VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__buf_1
XFILLER_8_80 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_93_ _41_ _42_ VGND VGND VPWR VPWR _43_ sky130_fd_sc_hd__or2_1
XFILLER_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_TAPCELL_ROW_6_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
Xinput5 B[0] VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__dlymetal6s2s_1
X_76_ net7 net4 net8 VGND VGND VPWR VPWR _27_ sky130_fd_sc_hd__a21oi_1
X_59_ net2 net7 net1 VGND VGND VPWR VPWR _11_ sky130_fd_sc_hd__a21oi_1
X_92_ _39_ _40_ VGND VGND VPWR VPWR _42_ sky130_fd_sc_hd__nor2_1
XPHY_EDGE_ROW_2_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_58_ net7 net8 VGND VGND VPWR VPWR _10_ sky130_fd_sc_hd__nor2_1
Xinput6 B[1] VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__clkbuf_2
X_75_ _12_ _15_ _25_ VGND VGND VPWR VPWR _26_ sky130_fd_sc_hd__a21o_1
XFILLER_7_28 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_91_ _39_ _40_ VGND VGND VPWR VPWR _41_ sky130_fd_sc_hd__and2_1
XFILLER_4_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_74_ _17_ _24_ VGND VGND VPWR VPWR _25_ sky130_fd_sc_hd__xor2_1
Xinput7 B[2] VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__clkbuf_2
X_57_ net1 net2 net7 VGND VGND VPWR VPWR _09_ sky130_fd_sc_hd__and3_1
XFILLER_8_61 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_4_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_5_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_90_ _29_ _31_ _30_ VGND VGND VPWR VPWR _40_ sky130_fd_sc_hd__o21bai_1
XFILLER_5_40 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xinput8 B[3] VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__clkbuf_2
XFILLER_2_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_56_ net5 net4 net3 VGND VGND VPWR VPWR _08_ sky130_fd_sc_hd__a21oi_1
X_73_ _20_ _22_ VGND VGND VPWR VPWR _24_ sky130_fd_sc_hd__xor2_1
XFILLER_7_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_72_ _20_ _22_ VGND VGND VPWR VPWR _23_ sky130_fd_sc_hd__nor2_1
XPHY_EDGE_ROW_6_Left_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_55_ net5 net4 net3 VGND VGND VPWR VPWR _07_ sky130_fd_sc_hd__and3_1
XFILLER_8_74 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_8_Right_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_64 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_54_ _02_ _06_ _05_ VGND VGND VPWR VPWR net10 sky130_fd_sc_hd__a21oi_1
X_71_ _21_ net6 _07_ VGND VGND VPWR VPWR _22_ sky130_fd_sc_hd__mux2_1
XFILLER_2_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_8_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XTAP_TAPCELL_ROW_1_22 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_70_ net6 net4 VGND VGND VPWR VPWR _21_ sky130_fd_sc_hd__nand2_1
X_53_ net2 net6 VGND VGND VPWR VPWR _06_ sky130_fd_sc_hd__nand2_1
XFILLER_4_7 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_5_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_52_ net1 net5 net2 net6 VGND VGND VPWR VPWR _05_ sky130_fd_sc_hd__and4_1
XFILLER_8_33 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_51_ net5 net6 _02_ _04_ VGND VGND VPWR VPWR net9 sky130_fd_sc_hd__o211a_1
XFILLER_2_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_45 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_1_Left_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_50_ net5 net2 net1 VGND VGND VPWR VPWR _04_ sky130_fd_sc_hd__a21o_1
XFILLER_2_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_4_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_2_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_2_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_5_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_60 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_28 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_7_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_89_ net8 net4 _17_ VGND VGND VPWR VPWR _39_ sky130_fd_sc_hd__and3_1
XFILLER_6_72 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_88_ _35_ _37_ VGND VGND VPWR VPWR _38_ sky130_fd_sc_hd__nor2_1
XFILLER_8_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_EDGE_ROW_9_Left_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_87_ _26_ _36_ VGND VGND VPWR VPWR net13 sky130_fd_sc_hd__xnor2_1
XFILLER_8_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_3_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_7 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_86_ _26_ _36_ VGND VGND VPWR VPWR _37_ sky130_fd_sc_hd__and2b_1
XFILLER_3_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_69_ _19_ net8 _09_ VGND VGND VPWR VPWR _20_ sky130_fd_sc_hd__mux2_1
X_85_ _33_ _34_ VGND VGND VPWR VPWR _36_ sky130_fd_sc_hd__xor2_1
XPHY_EDGE_ROW_0_Left_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xmult4_SarsaNStepsRuido_e9_SarsaNStepsRuido_e9_SarsaNStepsRuido_e9_SARSA_RUIDO_e9_16
+ VGND VGND VPWR VPWR mult4_SarsaNStepsRuido_e9_SarsaNStepsRuido_e9_SarsaNStepsRuido_e9_SARSA_RUIDO_e9_16/HI
+ P[0] sky130_fd_sc_hd__conb_1
XFILLER_9_42 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_68_ net2 net8 VGND VGND VPWR VPWR _19_ sky130_fd_sc_hd__nand2_1
XFILLER_6_76 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_84_ _33_ _34_ VGND VGND VPWR VPWR _35_ sky130_fd_sc_hd__and2_1
X_67_ net1 net2 net7 net8 VGND VGND VPWR VPWR _18_ sky130_fd_sc_hd__and4_1
XFILLER_9_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_TAPCELL_ROW_2_23 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
.ends

